US05270307
Dimethylaminopyridine (0.123 g, 1 mmol, 0.1 eq), 2-(2-ethylsulfinyl)benzoyl pyrrole (2.5 g, 10.1 mmol) and toluene (115 mL) are combined and refluxed with stirring in a flask covered with foil (to exclude light) for 29 hours, at which time the solvent is removed, in vacuo. The resulting crude solid is chromatographed to give 110 mg of comprising pyrrolo(2,1-b)-(1,3)benzothiazin-9-one (20 percent), 514 mg of pyrrolo(1,2-b)-(1,2)benzo-thiazin-10-one (46 percent) and 1.11 g of unreacted starting material. A small amount of 1H, 9H-(1)benzothiopyrano(3,2-b)pyrrol-9-one is detected by thin-layer chromatography but was not isolated. The pyrrolo(1,2-b)-(1,2)benzothiazin-10-one is recrystallized with EtOAc and hexanes to give an analytically pure yellow-orange solid (mp 100-102° C.).

reactant | Dimethylaminopyridine | 1 mmol, 0.123 g, 0.1 eq | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | 2-(2-ethylsulfinyl)benzoyl pyrrole | 10.1 mmol, 2.5 g | CCS(=O)C1=C(C(=O)C=2NC=CC2)C=CC=C1 | C13H13NO2S
solvent | toluene | 115 mL | C1(=CC=CC=C1)C | C7H8
product | pyrrolo(2,1-b)-(1,3)benzothiazin-9-one | 110 mg, 20 percent | C1=CC=C2SC3=C(C(N21)=O)C=CC=C3 | C11H7NOS
